US04623742
2-[3-(2-chloroethyl)-2-(bis-(2-chloroethyl)-amino)-2-oxotetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-thio]-ethanesulphonic acid cyclohexylammonium salt
340 mg (1 mmol) of 3-(2-chloroethyl)-2-(bis-(2-chloroethyl)-amino)-4-hydroxy-tetrahydro-2H-1,3,2-oxazaphosphorin-2-oxide and 240 mg (1 mmol) cyclohexylammonium-2-mercaptoethanesulphonate in 2 ml of dimethylformamide were mixed with a trace of trichloroacetic acid and were stored for 2 days at -25° C. The reaction mixture was then precipitated with 20 times the quantity of ether. The residue was washed and dried.

reactant | 3-(2-chloroethyl)-2-(bis-(2-chloroethyl)-amino)-4-hydroxy-tetrahydro-2H-1,3,2-oxazaphosphorin-2-oxide | 1 mmol, 340 mg | ClCCN1P(OCCC1O)(N(CCCl)CCCl)=O | C9H18Cl3N2O3P
reactant | cyclohexylammonium 2-mercaptoethanesulphonate | 1 mmol, 240 mg | C1(CCCCC1)[NH3+].SCCS(=O)(=O)[O-]
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[3-(2-chloroethyl)-2-(bis-(2-chloroethyl)-amino)-2-oxotetrahydro-2H-1,3,2-oxazaphosphorin-4-yl-thio]-ethanesulphonic acid cyclohexylammonium salt | C1(CCCCC1)[NH3+].ClCCN1P(OCCC1SCCS(=O)(=O)[O-])(=O)N(CCCl)CCCl | InChI=1S/C11H22Cl3N2O5PS2.C6H13N/c12-2-5-15(6-3-13)22(17)16(7-4-14)11(1-8-21-22)23-9-10-24(18,19)20;7-6-4-2-1-3-5-6/h11H,1-10H2,(H,18,19,20);6H,1-5,7H2
